* Z:\mnt\design.r\spice\examples\1109.asc
R1 N003 0 83K
R2 OUT N003 250K
V1 IN 0 3 Rser=0.1
C1 OUT 0 22µ Rser=0.02
D1 N001 OUT MBRS140
L1 IN N001 33µ Rser=0.02 Rpar=5000
XU1 IN MP_01 N001 0 MP_02 MP_03 N002 N003 LT1109 top=1k bot=1T
Rload OUT 0 50
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1.5m startup
.lib LT1109.sub
.backanno
.end
